* C:\Users\Danae\SoundActivatedLEDs\SoundResopnseLEDCircuit.asc
V1 N006 0 SINE(0 200 200)
XU1 0 N004 V+ V- N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XLP N002 N001 V+ V- Vout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XBP NC_01 NC_02 V+ V- NC_03 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N004 N006 1k
R2 N005 N004 1k
V2 V+ 0 15
V3 0 V- 15
XHP NC_04 NC_05 V+ V- NC_06 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N001 0 1k
R4 Vout N001 1k
R5 N002 N003 1k
R6 N003 Vin 1k
C2 Vout N003 1µ
C1 N002 0 1µ
V4 Vin 0 SINE(0 50 200)
;tran 0 0.01 0 0.1u
.ac dec 1 0.01 800
.lib UniversalOpAmp1.lib
.backanno
.end
